US06329381B1
6-Amino-9-benzyl-2-pentylthiopurine
To DMF suspension (10 ml) containing sodium hydride (277 mg, 6.9 mmol, 60% in mineral oil) were added 1-pentanethiol (2 ml, 16 mmol) and 6-amino-9-benzyl-2-chloropurine (100 mg, 0.39 mmol) in order. The mixture was stirred under heating at 110° C. for 4 hours. Brine was added thereto and the mixture was extracted with ethyl acetate. The organic layer was dried on magnesium sulfate, filtered and the solvent in the filtrate was evaporated in vacuo. The residue was purified with silica gel chromatography (1% methanol/chloroform) to give the subject compound (102 mg, yield 81%).

reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | sodium hydride | 6.9 mmol, 277 mg | [H-].[Na+]
reactant | 1-pentanethiol | 16 mmol, 2 ml | C(CCCC)S | C5H12S
reactant | 6-amino-9-benzyl-2-chloropurine | 0.39 mmol, 100 mg | NC1=C2N=CN(C2=NC(=N1)Cl)CC1=CC=CC=C1 | C12H10ClN5
solvent | Brine | [Cl-].[Na+].O
product | 6-Amino-9-benzyl-2-pentylthiopurine | 102 mg, yield 81% | NC1=C2N=CN(C2=NC(=N1)SCCCCC)CC1=CC=CC=C1 | C17H21N5S
